US04863948
(B) 2-(4-Methyl-2H-phthalazin-1-on-2-yl)-N-methylethylamine hydrobromide
2-(4-Methyl-2H-phthalazin-1-on-2-yl)ethyl bromide (6.1 g) and methylamine (20 ml of 30% ethanolic methylamine) in ethanol (150 ml) were heated in a bomb at 100° for 2 hours. The solvent was removed and the residue triturated with ethyl acetate to give a yellow solid, which was recrystallised from ethanol to afford the title compound, yield 5.03 g, m.p. 219°-221°.

reactant | 2-(4-Methyl-2H-phthalazin-1-on-2-yl)ethyl bromide | 6.1 g | CC1=NN(C(C2=CC=CC=C12)=O)CCBr | C11H11BrN2O
reactant | methylamine | 20 ml | CN | CH5N
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 2-(4-Methyl-2H-phthalazin-1-on-2-yl)-N-methylethylamine hydrobromide | Br.CC1=NN(C(C2=CC=CC=C12)=O)CCNC | InChI=1S/C12H15N3O.BrH/c1-9-10-5-3-4-6-11(10)12(16)15(14-9)8-7-13-2;/h3-6,13H,7-8H2,1-2H3;1H
